US07645771B2
A mixture of 1-[(1R,5S)-8-(2-{1-benzyl-4-[3-(trifluoromethyl)phenyl]piperidin-4-yl}ethyl)-8-azabicyclo[3.2.1]oct-3-yl]-2-methyl-1H-benzimidazole (0.2 g, 0.34 mmol), 1N hydrochloric acid (0.34 mL) and 10% Palladium on carbon (50 mg) in methanol (10 mL) was hydrogenated overnight at rt and atmospheric pressure. The mixture was filtered through celite and concentrated to give 2-methyl-1-[8-(2-{4-[3-(trifluoromethyl)phenyl]piperidin-4-yl}ethyl)-8-azabicyclo[3.2.1]oct-3-yl]-1H-benzimidazole dihydrochloride as a solid (0.15 g, 89%) that was used without further purification.

reactant | 1-[(1R,5S)-8-(2-{1-benzyl-4-[3-(trifluoromethyl)phenyl]piperidin-4-yl}ethyl)-8-azabicyclo[3.2.1]oct-3-yl]-2-methyl-1H-benzimidazole | 0.34 mmol, 0.2 g | C(C1=CC=CC=C1)N1CCC(CC1)(C1=CC(=CC=C1)C(F)(F)F)CCN1[C@H]2CC(C[C@@H]1CC2)N2C(=NC1=C2C=CC=C1)C | C36H41F3N4
reactant | hydrochloric acid | 1N, 0.34 mL | Cl | ClH
catalyst | Palladium on carbon | 50 mg | [Pd] | Pd
solvent | methanol | 10 mL | CO | CH4O
product | 2-methyl-1-[8-(2-{4-[3-(trifluoromethyl)phenyl]piperidin-4-yl}ethyl)-8-azabicyclo[3.2.1]oct-3-yl]-1H-benzimidazole dihydrochloride | 0.15 g, 89% | Cl.Cl.CC1=NC2=C(N1C1CC3CCC(C1)N3CCC3(CCNCC3)C3=CC(=CC=C3)C(F)(F)F)C=CC=C2 | InChI=1S/C29H35F3N4.2ClH/c1-20-34-26-7-2-3-8-27(26)36(20)25-18-23-9-10-24(19-25)35(23)16-13-28(11-14-33-15-12-28)21-5-4-6-22(17-21)29(30,31)32;;/h2-8,17,23-25,33H,9-16,18-19H2,1H3;2*1H
